US06465507B2
2-Oxo-3-(4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridin-1-ylmethylene)-2,3-dihydro-1H-indole-5-sulfonic Acid Amide
A mixture of 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide (63 mg, 0.3 mmol), 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde (50 mg, 0.3 mmol) and 0.1 mL of piperidine in ethanol (1 mL) was heated in a sealed tube at 80° C. for 4 hours. The precipitate was collected by vacuum filtration, washed with cold ethanol and dried to give 89 mg (82%) of the title compound.

reactant | 2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid amide | 0.3 mmol, 63 mg | O=C1NC2=CC=C(C=C2C1)S(=O)(=O)N | C8H8N2O3S
reactant | 4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridine-1-carbaldehyde | 0.3 mmol, 50 mg | O=C1NCCC=2C1=CNC2C=O | C8H8N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-Oxo-3-(4-oxo-4,5,6,7-tetrahydro-2H-pyrrolo[3,4-c]pyridin-1-ylmethylene)-2,3-dihydro-1H-indole-5-sulfonic Acid Amide | 89 mg, 82% | O=C1NC2=CC=C(C=C2C1=CC=1NC=C2C(NCCC21)=O)S(=O)(=O)N | C16H14N4O4S
